US09107916B2
A. 4-(hydroxymethyl)-3-methylbenzonitrile
Charge methyl 4-cyano-2-methylbenzoate (627 mg, 3.57 mmol), THF (12 mL) and ethanol (12 mL) to a flask, followed by CaCl2 (418 mg, 3.57 mmol) and NaBH4 (265 mg, 7.16 mmol). The mixture was then stirred at room temperature overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic extract was concentrated and purified by flash column chromatograph to give 325 mg of the title compound (62%). 1H NMR (300 MHz, CDCl3): δ 1.83 (1H, t, J=5.4 Hz), 2.33 (3H, s), 4.75 (2H, d, J=5.4 Hz), 7.43 (1H, s), 7.52-7.56 (2H, m).

reactant | methyl 4-cyano-2-methylbenzoate | 3.57 mmol, 627 mg | C(#N)C1=CC(=C(C(=O)OC)C=C1)C | C10H9NO2
reactant | THF | 12 mL | C1CCOC1 | C4H8O
reactant | CaCl2 | 3.57 mmol, 418 mg | [Cl-].[Cl-].[Ca+2]
reactant | NaBH4 | 7.16 mmol, 265 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 4-(hydroxymethyl)-3-methylbenzonitrile | 325 mg, 62% | OCC1=C(C=C(C#N)C=C1)C | C9H9NO
